US07091353B2
3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid dimethyl ester
3-Pyridinecarboxaldehyde (0.94 ml, 10 mmol) was treated in the same manner as described above for the synthesis of 3-pentylamino-phthalic acid dimethyl ester. After removal of pyridine the residue was dissolved in methylene chloride (100 ml) and washed with water (2×100 ml), saturated NaHCO3 (2×100 ml), brine (1×100 ml), dried (magnesium sulfate), and filtered. The solvent was evaporated in vacuo to give an oil. The oil was dissolved in diethyl ether (100 ml) and extracted with 0.1 N HCl (2×100 ml). The combined aqueous HCl extracts were washed with diethyl ether (2×100 ml) and the pH adjusted to 10 by dropwise addition of saturated Na2CO3. The product was extracted with diethyl ether (3×100 ml). The combined ether extracts were washed with brine (1×100 ml), dried (magnesium sulfate), and filtered. The solvent was evaporated in vacuo to give 0.91 g (61%) of product as a light yellow oil which was used without further purification: 1H NMR (CDCl3) δ 8.61 (d, J=2.0 Hz, 1H), 8.53 (dd, J=1.1 Hz and 4.8 Hz, 1H), 7.65 (d, J=7.9 Hz, 1H), 7.31–7.21 (m, 3H), 6.85 (d, J=7.3 Hz, 1H), 6.69 (d, J=8.5 Hz, 1H), 4.45 (d, J=5.7 Hz, 2H), 3.87 (s, 3H), 3.85 (s, 3H).

reactant | 3-Pyridinecarboxaldehyde | 10 mmol, 0.94 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 3-pentylamino-phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=C(C=CC1)NCCCCC)=O | C15H21NO4
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid dimethyl ester | 0.91 g, 61% | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1C=NC=CC1)=O | C16H16N2O4
